US06140332
Step 12.1: 2-Amino-3-ethoxycarbonyl-5-(4-methoxy-phenyl)-1H-pyrrole
Analogously to Step 8.1, 1.67 g (10 mmol) of 2-amidino-acetic acid ethyl ester hydro-chloride in 20 ml of abs. ethanol are reacted with 716 mg (10 mmol) of sodium ethanolate and 1.145 g (5.0 mmol) of 4-methoxy-phenacyl bromide (Fluka; Buchs/Switzerland) to form the title compound; m.p. 141-142° C.; TLC-Rf =0.4 (hexane/ethyl acetate [1:1]); FAB-MS: (M+H)+ =261.

reactant | 2-amidino-acetic acid ethyl ester hydro-chloride | 10 mmol, 1.67 g | Cl.C(C)OC(CC(N)=N)=O
reactant | sodium ethanolate | 10 mmol, 716 mg | C(C)[O-].[Na+]
reactant | 4-methoxy-phenacyl bromide | 5.0 mmol, 1.145 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-ethoxycarbonyl-5-(4-methoxy-phenyl)-1H-pyrrole | NC=1NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OC | C14H16N2O3
